US05616537
Preparation of Benzyl 5-[(4,6-Dimethoxypyrimidin-2-yl)oxy]-3-formyl-2-methylindol-4-carboxylate (Compound No. 680)
0.46 ml of phosphorus oxychloride was dropwise added to 1.8 ml of N,N-dimethylformamide under cooling with ice, and the mixture was stirred for 30 minutes. Then, 2.3 g of benzyl 5-[(4,6-dimethoxypyrimidin-2-yl)oxy]-2-methylindol-4-carboxylate was dissolved in 10 ml of N,N-dimethylformamide, and the solution was dropwise added to the above mixture under cooling with ice. The mixture was stirred for 30 minutes, and then poured into ice water. An aqueous sodium hydroxide solution was added thereto for adjustment to pH9, followed by extraction with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate. The residue obtained by concentration under reduced pressure, was crystallized from isopropyl ether to obtain 2 g (yield: 81.5%) of the desired compound. mp: 148°-149° C.

reactant | phosphorus oxychloride | 0.46 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | benzyl 5-[(4,6-dimethoxypyrimidin-2-yl)oxy]-2-methylindol-4-carboxylate | 2.3 g | COC1=NC(=NC(=C1)OC)OC1=C(C=2C=C(NC2C=C1)C)C(=O)OCC1=CC=CC=C1 | C23H21N3O5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 1.8 ml | CN(C=O)C | C3H7NO
product | Benzyl 5-[(4,6-Dimethoxypyrimidin-2-yl)oxy]-3-formyl-2-methylindol-4-carboxylate | 2 g, yield: 81.5% | COC1=NC(=NC(=C1)OC)OC1=C(C=2C(=C(NC2C=C1)C)C=O)C(=O)OCC1=CC=CC=C1 | C24H21N3O6
